US08871756B2
2-[4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-6-yloxy]-ethanol
A mixture of 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-6-ol (250 mg, 0.67 mmol, prepared in analogy to the one in Example 29), 2-bromo-ethanol (166.7 mg, 1.33 mmol), and potassium carbonate (277 mg, 2.01 mmol) in acetone (30 mL) was stirred at room temperature overnight and then refluxed for 12 hours. The reacting mixture was filtered and concentrated in vacuo. The residue was purified by preparative TLC to afford 230 mg of the desired product (yield was 82%).

reactant | 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-6-ol | ClC1=CC(=NC2=CC=C(C=C12)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C18H15ClN2O3S
reactant | 2-bromo-ethanol | 1.33 mmol, 166.7 mg | BrCCO | C2H5BrO
reactant | potassium carbonate | 2.01 mmol, 277 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 2-[4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-6-yloxy]-ethanol | 230 mg, yield was 82% | ClC1=CC(=NC2=CC=C(C=C12)OCCO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H19ClN2O4S
